US07727988B2
5-(6-methyl-3-pyridinyl)-1-(3-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}propyl)-2,4(1H,3H)-pyrimidinedione dihydrochloride (E40)
5-(6-methyl-3-pyridinyl)-1-(3-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}propyl)-2,4(1H,3H)-pyrimidinedione was dissolved in dioxane and treated with 4N HCl in dioxane (2 eq), to give the title compound as a white powder (65 mg, 34.4% yield)

reactant | 5-(6-methyl-3-pyridinyl)-1-(3-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}propyl)-2,4(1H,3H)-pyrimidinedione | CC1=CC=C(C=N1)C=1C(NC(N(C1)CCCN1C[C@]2(C[C@H]2C1)C1=CC=C(C=C1)C(F)(F)F)=O)=O | C25H25F3N4O2
reactant | HCl | 4N | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | dioxane | 2 eq | O1CCOCC1 | C4H8O2
product | 5-(6-methyl-3-pyridinyl)-1-(3-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}propyl)-2,4(1H,3H)-pyrimidinedione dihydrochloride | 65 mg, 34.4% yield | Cl.Cl.CC1=CC=C(C=N1)C=1C(NC(N(C1)CCCN1C[C@]2(C[C@H]2C1)C1=CC=C(C=C1)C(F)(F)F)=O)=O | InChI=1S/C25H25F3N4O2.2ClH/c1-16-3-4-17(12-29-16)21-14-32(23(34)30-22(21)33)10-2-9-31-13-20-11-24(20,15-31)18-5-7-19(8-6-18)25(26,27)28;;/h3-8,12,14,20H,2,9-11,13,15H2,1H3,(H,30,33,34);2*1H/t20-,24+;;/m0../s1
